US04626540
1-Chloro-7-hydroxy-4-nitro-9(10H)-acridinone
To a stirred and boiling mixture of 26.7 g of 1-chloro-4-nitro-7-(phenylmethoxy)-9(10H)-acridinone in 1.9 l of glacial acetic acid was added 13.0 ml of methanesulfonic acid. Heating and stirring were continued for seven hours and the mixture was filtered. The precipitate was suspended in 250 ml of boiling glacial acetic acid, cooled to 60°, collected, washed with water and then methanol, and dried providing the title compound, mp above 325° C.

reactant | 1-chloro-4-nitro-7-(phenylmethoxy)-9(10H)-acridinone | 26.7 g | ClC1=CC=C(C=2NC3=CC=C(C=C3C(C12)=O)OCC1=CC=CC=C1)[N+](=O)[O-] | C20H13ClN2O4
reactant | methanesulfonic acid | 13.0 ml | CS(=O)(=O)O | CH4O3S
solvent | acetic acid | 1.9 l | C(C)(=O)O | C2H4O2
product | 1-Chloro-7-hydroxy-4-nitro-9(10H)-acridinone | ClC1=CC=C(C=2NC3=CC=C(C=C3C(C12)=O)O)[N+](=O)[O-] | C13H7ClN2O4
